US05547982
Preparation of cis, trans, cis ammino 5-aminopentan-2-one dihydroxy dichloro platinum (IV)
Thirty-eight grams (0.099 moles) of cis ammino-5-aminopentan-2-one dichloro platinum (II) were suspended in 350 ml of water. Five milliliters of ethanol were added to wet the solid. Next 49 ml of a 30% solution of hydrogen peroxide (0.49 moles) was added with stirring.

reactant | 5-aminopentan-2-one dichloro platinum (II) | Cl[Pt]Cl.NCCCC(C)=O
reactant | ethanol | Five milliliters | C(C)O | C2H6O
reactant | hydrogen peroxide | 0.49 moles | OO | H2O2
reactant | water | 350 ml | O | H2O
product | 5-aminopentan-2-one dihydroxy dichloro platinum (IV) | O[Pt](Cl)(Cl)O.NCCCC(C)=O | InChI=1S/C5H11NO.2ClH.2H2O.Pt/c1-5(7)3-2-4-6;;;;;/h2-4,6H2,1H3;2*1H;2*1H2;/q;;;;;+4/p-4
